US09062092B2
Compound 48f. 5-Vinyl-[1,3]dioxane-5-carboxylic acid
A solution of 5-vinyl-[1,3]dioxane-5-carboxylic acid ethyl ester (397.7 mg, 2.136 mmol) in tetrahydrofuran/methanol/water (15 mL, 2:2:1) was treated with lithium hydroxide monohydrate (269 mg, 6.408 mmol). After stirring at room temperature for 1.5 h, the volatiles were removed in vacuo and the residue was cooled to 0° C. and quenched with hydrochloric acid (1 M). The aqueous layer was saturated with sodium chloride, extracted with dichloromethane (3×). The combined organics were filtered through a phase separator and the volatiles were removed in vacuo to provide the title compound (320.3 mg, 95%) as a colourless solid. 1H NMR (300 MHz, CDCl3) δ 3.72 (d, J=11.6 Hz, 2H), 4.50 (d, J=11.4 Hz, 2H), 4.73 (d, J=6.2 Hz, 1H), 5.02 (d, J=6.0 Hz, 1H), 5.27-5.39 (m, 2H), 5.69 (dd, J=17.6, 10.9 Hz, 1H).

reactant | 5-vinyl-[1,3]dioxane-5-carboxylic acid ethyl ester | 2.136 mmol, 397.7 mg | C(C)OC(=O)C1(COCOC1)C=C | C9H14O4
reactant | lithium hydroxide monohydrate | 6.408 mmol, 269 mg | O.[OH-].[Li+]
solvent | tetrahydrofuran methanol water | 15 mL | O1CCCC1.CO.O
product | 5-Vinyl-[1,3]dioxane-5-carboxylic acid | 320.3 mg, 95% | C(=C)C1(COCOC1)C(=O)O | C7H10O4
